US04789396
0.4 Gram of 2-acetyl-5-[1-methyl-2-(4-trifluoromethylphenylthio)ethyl]cyclohexane-1,3-dione and 0.1 g of ethoxyamine hydrochloride were dissolved in 10 ml of methanol and 0.15 g of potassium carbonate was added to the resulting solution which was then refluxed for 3 hours. The reaction solution was poured into water and extracted with chloroform. After removing chloroform, the residue was purified by thin layer chromatography (eluent, hexane:ethyl acetate=5:1) to obtain 0.3 g of 2-(1-ethoxyaminoethylidene)-5-[1-methyl-2-(4-trifluoromethylphenylthio)ethyl]cyclohexane-1,3-dione.

reactant | 2-acetyl-5-[1-methyl-2-(4-trifluoromethylphenylthio)ethyl]cyclohexane-1,3-dione | C(C)(=O)C1C(CC(CC1=O)C(CSC1=CC=C(C=C1)C(F)(F)F)C)=O | C18H19F3O3S
reactant | ethoxyamine hydrochloride | 0.1 g | Cl.C(C)ON
reactant | potassium carbonate | 0.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 2-(1-ethoxyaminoethylidene)-5-[1-methyl-2-(4-trifluoromethylphenylthio)ethyl]cyclohexane-1,3-dione | 0.3 g | C(C)ONC(C)=C1C(CC(CC1=O)C(CSC1=CC=C(C=C1)C(F)(F)F)C)=O | C20H24F3NO3S
